US09290490B2
Ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)but-3-en-1-yl]cyclohexanecarboxylate (40 mg, 0.107 mmol), 4-methylmorpholine N-oxide (14 mg, 0.120 mmol), THF (0.8 ml), water (0.4 ml) and osmium tetroxide (0.2 ml, 0.025 mmol). The mixture was stirred at room temperature for 15 min. The mixture was diluted with sodium thiosulfate and extracted with EtOAc. The organic phase was washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified on silica gel (0-100% EtOAc in hexane) to afford ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-3,4-dihydroxybutyl]cyclohexanecarboxylate. MS ESI calc'd. for C16H24BrNO4S [M+H]+ 406, 408. found 406, 408. 1H NMR (500 MHz, CDCl3) δ 7.54 (s, 1H), 4.08 (q, J=7.1, 2H), 3.70-2.93 (m, 3H), 2.60-2.42 (m, 1H), 2.25-2.06 (m, 1H), 2.06-1.51 (m, 7H), 1.51-1.30 (m, 2H), 1.22 (t, J=7.1, 3H), 1.14-0.92 (m, 2H).

reactant | Ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)but-3-en-1-yl]cyclohexanecarboxylate | 0.107 mmol, 40 mg | BrC1=CN=C(S1)C(CC=C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C16H22BrNO2S
reactant | 4-methylmorpholine N-oxide | 0.120 mmol, 14 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF | 0.8 ml | C1CCOC1 | C4H8O
reactant | water | 0.4 ml | O | H2O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | osmium tetroxide | 0.025 mmol, 0.2 ml | [Os](=O)(=O)(=O)=O
product | ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-3,4-dihydroxybutyl]cyclohexanecarboxylate | BrC1=CN=C(S1)C(CC(CO)O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C16H24BrNO4S
